US07622583B2
To a solution of N-(2-bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (612 mg, 1.24 mmol) in THF (5 mL) under nitrogen atmosphere at 0° C. was added dropwise isopropylmagnesium chloride (2 M solution in THF, 1.55 mL, 3.1 mmol). The mixture was then stirred for 30 min at 0° C. followed by the addition of a solution of 2, N-dimethoxy-N-methyl-nicotinamide (487 mg, 2.48 mmol) in THF (2 mL) at 0° C. The mixture was stirred at room temperature for 6 hours, quenched with saturated aqueous NH4Cl solution (5 mL) and extracted with EtOAc (2×25 mL). The combined organic layers were washed with saturated aqueous NH4Cl solution (25 mL), brine (25 mL), dried (anhydrous Na2SO4) and concentrated under reduced pressure. The obtained residue was purified via column chromatography (SiO2, 50% EtOAc-hexanes) to obtain 4-chloro-N-[5-chloro-2-(2-methoxy-pyridine-3-carbonyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (200 mg) in 29.2% yield. ESMS m/z (relative intensity): 550 (M+H)+(100), 571.9 (M+Na)+ (80).

reactant | N-(2-bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 1.24 mmol, 612 mg | BrC1=NC=C(C=C1N(S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)COC)Cl | C14H10BrCl2F3N2O3S
reactant | isopropylmagnesium chloride | 3.1 mmol, 2 M, 1.55 mL | C(C)(C)[Mg]Cl
reactant | 2, N-dimethoxy-N-methyl-nicotinamide | 2.48 mmol, 487 mg | COC1=C(C(=O)N(C)OC)C=CC=N1 | C9H12N2O3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-chloro-N-[5-chloro-2-(2-methoxy-pyridine-3-carbonyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 200 mg, 29.2% yield | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)Cl)C(=O)C=1C(=NC=CC1)OC)C(F)(F)F | C21H16Cl2F3N3O5S
